US04741848
Tartaric acid (150 parts) is added to 173 parts of toluene and the mixture is heated with stirring to 100° C. Armeen O (281 parts) is added slowly and in small portions while the system is kept under nitrogen purge. After the addition of the Armeen O is completed the contents are heated to 130° C. at which temperature the water formed is removed by azeotroping, and collected. The temperature is then raised to 160° C., after no more water is collected and kept at about 160° C. for one hour under nitrogen purge to remove the toluene. The liquid residue is then filtered through diatomaceous earth to yield the desired N-oleyltartarimide. Analysis shows nitrogen content of 3.42% and hydroxyl content of 8.33%.

reactant | Tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | Armeen O | CCCCCCCC/C=C\CCCCCCCCN | C18H37N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-oleyltartarimide | C(CCCCCCC\C=C/CCCCCCCC)N1C(C(O)C(O)C1=O)=O | C22H39NO4
